US06054412
3-(4-Chloro-2-fluoro-5-nitrophenyl)-1-methyl-4,5-di(trifluoromethyl)-1H-pyrazole (No. Ib.003)
10.5 g (30 mmol) of 3-(4-chloro-2-fluorophenyl)-l-methyl-4,5-di(trifluoromethyl)-1H-pyrazole were added, at (-40)° C. to 90 ml of concentrated nitric acid, whereupon the mixture was stirred for 1 hour. Then, the mixture was stirred in 0.8 1 of ice-water. The product of value was subsequently extracted with dichloromethane. The organic phase was dried over magnesium sulfate and finally concentrated. Yield: 59%.

reactant | 3-(4-chloro-2-fluorophenyl)-l-methyl-4,5-di(trifluoromethyl)-1H-pyrazole | 30 mmol, 10.5 g | ClC1=CC(=C(C=C1)C1=NN(C(=C1C(F)(F)F)C(F)(F)F)C)F | C12H6ClF7N2
reactant | nitric acid | 90 ml | [N+](=O)(O)[O-] | HNO3
product | 3-(4-Chloro-2-fluoro-5-nitrophenyl)-1-methyl-4,5-di(trifluoromethyl)-1H-pyrazole | Yield: 59% | ClC1=CC(=C(C=C1[N+](=O)[O-])C1=NN(C(=C1C(F)(F)F)C(F)(F)F)C)F | C12H5ClF7N3O2
